US04339587
In 100 ml of acetone is dissolved 15 g (0.0824 moles) of ethyl 2,5-dihydroxybenzoate, 13.9 g (0.110 mole) benzyl chloride and 34.1 g (0.247 mole) potassium carbonate. The mixture is heated to its reflux temperature and maintained at reflux for 22 hours. The solution is filtered and the residue is washed with acetone. The filtrate and washings are concentrated, and the residue is dissolved in diethyl ether. The ether extracts are washed twice with water then with saturated sodium chloride solution and finally dried over magnesium sulfate. The magnesium sulfate is removed by filtration and the solution is evaporated to provide a suspension of product which is triturated with hexane and dried to provide a solid. The solid is recrystallized from hexane to provide ethyl 5-benzyloxy-2-hydroxybenzoate, m.p. 71.5°-73° C.

reactant | ethyl 2,5-dihydroxybenzoate | 0.0824 moles, 15 g | OC1=C(C(=O)OCC)C=C(C=C1)O | C9H10O4
reactant | benzyl chloride | 0.110 mole, 13.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.247 mole, 34.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | ethyl 5-benzyloxy-2-hydroxybenzoate | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OCC)C1)O | C16H16O4
